* Extracted Netlist
.include TSMC_180nm.txt
.param SUPPLY=1.8
.global gnd vdd

* Supply
Vdd vdd gnd 'SUPPLY'

* SPICE3 file created from D_Flip_Flop.ext - technology: scmos

.option scale=0.09u

M1000 a_n17_47# clk a_n45_36# Gnd CMOSN w=20 l=2
+  ad=120 pd=52 as=120 ps=52
M1001 a_n45_36# a_n45_70# VDD w_n103_27# CMOSP w=20 l=2
+  ad=100 pd=50 as=600 ps=280
M1002 a_n68_8# clk a_n68_33# w_n103_27# CMOSP w=40 l=2
+  ad=200 pd=90 as=160 ps=88
M1003 a_n68_8# a_n90_8# GND Gnd CMOSN w=13 l=2
+  ad=65 pd=36 as=330 ps=172
M1004 a_n68_33# a_n90_8# VDD w_n103_27# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1005 a_n17_13# clk DFF_Out Gnd CMOSN w=20 l=2
+  ad=120 pd=52 as=100 ps=50
M1006 DFF_Out a_n45_36# VDD w_n103_27# CMOSP w=20 l=2
+  ad=100 pd=50 as=0 ps=0
M1007 GND a_n11_44# a_n17_47# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1008 GND a_n45_36# a_n17_13# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1009 a_n90_8# clk a_n90_33# w_n103_27# CMOSP w=40 l=2
+  ad=200 pd=90 as=160 ps=88
M1010 a_n90_8# DFF_In GND Gnd CMOSN w=13 l=2
+  ad=65 pd=36 as=0 ps=0
M1011 a_n90_33# DFF_In VDD w_n103_27# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
C0 w_n103_27# VDD 0.20fF
C1 clk a_n11_44# 0.02fF
C2 VDD a_n68_8# 0.15fF
C3 a_n45_70# a_n45_36# 0.01fF
C4 w_n103_27# clk 0.33fF
C5 clk a_n68_8# 0.12fF
C6 a_n68_8# a_n11_44# 0.03fF
C7 w_n103_27# a_n68_8# 0.19fF
C8 VDD a_n45_36# 0.04fF
C9 clk a_n90_8# 0.03fF
C10 clk a_n45_36# 0.05fF
C11 a_n11_44# a_n45_36# 0.01fF
C12 w_n103_27# a_n90_8# 0.09fF
C13 DFF_In clk 0.03fF
C14 w_n103_27# a_n45_36# 0.15fF
C15 w_n103_27# DFF_In 0.06fF
C16 w_n103_27# a_n45_70# 0.07fF
C17 a_n90_8# GND 0.02fF
C18 a_n68_8# a_n45_70# 0.07fF
C19 a_n45_36# GND 0.05fF
C20 clk VDD 0.31fF
C21 w_n103_27# DFF_Out 0.02fF
C22 DFF_In GND 0.02fF
C23 DFF_Out Gnd 0.02fF
C24 GND Gnd 0.18fF
C25 a_n45_36# Gnd 0.02fF
C26 a_n11_44# Gnd 0.05fF
C27 a_n45_70# Gnd 0.02fF
C28 a_n68_8# Gnd 0.14fF
C29 VDD Gnd 0.16fF
C30 a_n90_8# Gnd 0.16fF
C31 clk Gnd 0.62fF
C32 DFF_In Gnd 0.11fF
C33 w_n103_27# Gnd 4.16fF

VClk clk gnd pulse SUPPLY 0 0 50p 50p 0.5ns 1ns
VD DFF_in gnd pulse 0 SUPPLY 0 50p 50p 0.75ns 1.5ns

.tran 1ps 5ns

.control

run
set hcopypscolor = 1
set color0 = white
set color1 = black
set curplottitle = "Siddarth Gottumukkula 2023102040"
set xbrushwidth = 3

let clock = 'clk + 4'
let input = 'DFF_in + 2'
let output = 'DFF_out'
plot clock input output

.endc

.end