* Extracted Netlist
.include TSMC_180nm.txt
.param SUPPLY=1.8
.global gnd vdd

* Supply
Vdd vdd gnd 'SUPPLY'

* SPICE3 file created from Low_Latch.ext - technology: scmos

.option scale=0.09u

M1000 a_13_n19# clk a_13_6# w_0_0# CMOSP w=40 l=2
+  ad=200 pd=90 as=160 ps=88
M1001 a_13_6# low_latch_in VDD w_0_0# CMOSP w=40 l=2
+  ad=0 pd=0 as=400 ps=180
M1002 low_latch_out clk a_35_6# w_0_0# CMOSP w=40 l=2
+  ad=200 pd=90 as=160 ps=88
M1003 low_latch_out a_13_n19# GND Gnd CMOSN w=13 l=2
+  ad=65 pd=36 as=130 ps=72
M1004 a_13_n19# low_latch_in GND Gnd CMOSN w=13 l=2
+  ad=65 pd=36 as=0 ps=0
M1005 a_35_6# a_13_n19# VDD w_0_0# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
C0 low_latch_in w_0_0# 0.06fF
C1 clk low_latch_in 0.03fF
C2 VDD w_0_0# 0.06fF
C3 clk VDD 0.17fF
C4 w_0_0# low_latch_out 0.02fF
C5 a_13_n19# w_0_0# 0.09fF
C6 clk a_13_n19# 0.03fF
C7 GND low_latch_in 0.02fF
C8 clk w_0_0# 0.40fF
C9 GND Gnd 0.08fF
C10 low_latch_out Gnd 0.04fF
C11 VDD Gnd 0.00fF
C12 a_13_n19# Gnd 0.16fF
C13 clk Gnd 0.20fF
C14 low_latch_in Gnd 0.11fF
C15 w_0_0# Gnd 2.72fF

VClk clk gnd pulse SUPPLY 0 0 50p 50p 1ns 2ns
VD low_latch_in gnd pulse 0 SUPPLY 0 50p 50p 1.25ns 2.5ns

.tran 1ps 5ns

.control

run
set hcopypscolor = 1
set color0 = white
set color1 = black
set curplottitle = "Siddarth Gottumukkula 2023102040"
set xbrushwidth = 3

let clock = 'clk + 4'
let input = 'low_latch_in + 2'
let output = 'low_latch_out'
plot clock input output

.endc

.end